US06121301
In 1 liter of toluene, 200 g of 3-cyanobenzoic acid were suspended, followed by the addition of 128 ml of thionyl chloride and 1 ml of N,N-dimethylformamide. The resulting mixture was stirred under heating at 80° C. for 5 hours. After cooling of the reaction mixture, the solvent was distilled off under reduced pressure. To the residue, n-hexane was added. By distilling off the solvent under reduced pressure, 3-cyanobenzoyl chloride was obtained. The resulting 3-cyanobenzoyl chloride was dissolved in 3 liters of dried 1,2-dichloroethane, followed by the addition of 200 g of 2-amino-4-methoxycarbonyl-1,3-thiazole. The resulting mixture was heated under reflux for 5 hours. The reaction mixture was cooled. Crystals so precipitated were collected by filtration and then washed with water, whereby 289 g of 2-[N-(3-cyanobenzoyl)amino]-4-methoxycarbonyl-1,3-thiazole.hydrochloride were obtained. Yield: 80%.

reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | 2-amino-4-methoxycarbonyl-1,3-thiazole | 200 g | NC=1SC=C(N1)C(=O)OC | C5H6N2O2S
solvent | 1,2-dichloroethane | 3 liters | ClCCCl | C2H4Cl2
product | 2-[N-(3-cyanobenzoyl)amino]-4-methoxycarbonyl-1,3-thiazole.hydrochloride | 289 g, Yield: 80% | Cl.C(#N)C=1C=C(C(=O)NC=2SC=C(N2)C(=O)OC)C=CC1 | InChI=1S/C13H9N3O3S.ClH/c1-19-12(18)10-7-20-13(15-10)16-11(17)9-4-2-3-8(5-9)6-14;/h2-5,7H,1H3,(H,15,16,17);1H
